US08222248B2
To a solution of 4-amino-3-nitrobenzoic acid (546 mg), EDCI (576 mg) and HOBt (405 mg) in DMF (7 mL) was added isoquinolin-1-ylamine (432 mg) and the mixture was stirred at ambient temperature for 18 h. Water was added and the orange precipitate was filtered to give 4-amino-N-isoquinolin-1-yl-3-nitrobenzamide.

reactant | 4-amino-3-nitrobenzoic acid | 546 mg | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | EDCI | 576 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 405 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | isoquinolin-1-ylamine | 432 mg | C1(=NC=CC2=CC=CC=C12)N | C9H8N2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-amino-N-isoquinolin-1-yl-3-nitrobenzamide | NC1=C(C=C(C(=O)NC2=NC=CC3=CC=CC=C23)C=C1)[N+](=O)[O-] | C16H12N4O3
